US05763700
1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(4-fluorophenyl)cyclopropane
The method of Example 1 was repeated using zinc powder (1 g), copper (I) chloride (0.12 g) and molecular sieve 4A (1 g), tetrahydrofuran (18 ml), 1-(4-fluorophenyl)-1-formyl-cyclopropane (0.54 g), acetic anhydride (0.38 ml) and methyl dichlorofluoroacetate (0.69 g) to yield the title compound (0.32 g, 42%).

reactant | 1-(4-fluorophenyl)-1-formyl-cyclopropane | 0.54 g | FC1=CC=C(C=C1)C1(CC1)C=O | C10H9FO
reactant | acetic anhydride | 0.38 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl dichlorofluoroacetate | 0.69 g | ClC(C(=O)OC)(F)Cl | C3H3Cl2FO2
catalyst | zinc | 1 g | [Zn] | Zn
catalyst | copper (I) chloride | 0.12 g | [Cu]Cl
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(4-fluorophenyl)cyclopropane | 0.32 g, 42% | FC(=CC1(CC1)C1=CC=C(C=C1)F)C(=O)OC | C13H12F2O2
